US04775692
Dimethyl methylphosphonate (11.7 g, 102 mmol) was dissolved in anhydrous THF (200 ml) and the resulting solution was cooled to -78° C. under argon atmosphere. A solution of n-butyl lithium in hexane (1.63N, 62.3 ml, 102 mmol) was added and the mixture was stirred for 30 minutes. A solution of ethyl 3,3-dimethylhexanoate (7.00 g, 40.6 mmol) in anhydrous THF (50 ml) was added to the reaction mixture at -78° C. andthe mixture was stirred for 30 minutes and then at room temperature for further 2 hours. Acetic acid was added to neutralize the solution. Water (20 ml) was added and then the solution was concentrated. The resulting residue were partitioned between ethyl acetate (200 ml) and water (10 ml). The ethyl acetate layer was separated, washed with water (80 ml) and with brine (100 ml), dried over anhydrous magnesium sulfate, and concentrated. The residue was distilled under reduced pressure to give oily product, dimethyl 4,4-dimethyl-2-oxoheptylphosphonate (8.11 g, 32.4 mmol, 79.8%, b.p.: 101°-104° C./0.03 mmHg). The structure was identified by the following data.

reactant | Dimethyl methylphosphonate | 102 mmol, 11.7 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 102 mmol, 1.63N, 62.3 ml | CCCCCC | C6H14
reactant | ethyl 3,3-dimethylhexanoate | 40.6 mmol, 7.00 g | CC(CC(=O)OCC)(CCC)C | C10H20O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | Water | 20 ml | O | H2O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | dimethyl 4,4-dimethyl-2-oxoheptylphosphonate | 32.4 mmol, 8.11 g, 79.8% | CC(CC(CP(OC)(OC)=O)=O)(CCC)C | C11H23O4P
